US06245775B1
tert-Butyl 4-methylphenyl-acetate
450 g (3 mol) of 4-methylphenyl-acetic acid (Aldrich), 1.13 l (12 mol) of tert-butanol and 90 g (0.74 mol) of 4-(N,N-diethylamino)pyridine are dissolved in 2 l of dichloromethane. After addition of 680 g (3.3 mol of dicyclohexylcarbodiimide, dissolved in 400 ml of dichloromethane, the mixture is stirred at 25° C. for 20 h, the precipitated urea is filtered off with suction and washed with 200 ml of dichloromethane, and the organic phase is washed twice each with 500 ml of 2 M hydrochloric acid and water. The organic phase is concentrated and distilled.

reactant | 4-methylphenyl-acetic acid | 3 mol, 450 g | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
reactant | tert-butanol | 12 mol, 1.13 l | C(C)(C)(C)O | C4H10O
reactant | 4-(N,N-diethylamino)pyridine | 0.74 mol, 90 g | C(C)N(CC)C1=CC=NC=C1 | C9H14N2
reactant | dicyclohexylcarbodiimide | 3.3 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-methylphenyl-acetate | CC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C13H18O2
